US06982348B2
To a suspension (140 ml) of zinc chloride (9.90 g, 72.6 mmol) in ether was added sodium borohydride (5.50 g, 145.2 mmol) at room temperature, and the mixture was stirred as it was for 2 hrs. Insoluble material was filtered off, and to the filtrate was added a solution of ethyl 3-(3-chlorophenyl)-2-[(3,3-dimethyl-2,3-dihydro-1-benzofuran-5-yl)methyl]-3-oxopropionate (14.04 g, 36.3 mmol) in ether (50 ml), and the mixture was stirred at room temperature for 1.5 hrs. The reaction was quenched with 3N hydrochloric acid, and the reaction mixture was diluted with ethyl acetate and washed with water and saturated brine. The mixture was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1, 5:1) to give ethyl (2RS,3RS)-3-(3-chlorophenyl)-2-[(3,3-dimethyl-2,3-dihydro-1-benzofuran-5-yl)methyl]-3-hydroxypropionate (12.07 g, 86%) as a pale-yellow oil.

reactant | sodium borohydride | 145.2 mmol, 5.50 g | [BH4-].[Na+]
reactant | ethyl 3-(3-chlorophenyl)-2-[(3,3-dimethyl-2,3-dihydro-1-benzofuran-5-yl)methyl]-3-oxopropionate | 36.3 mmol, 14.04 g | ClC=1C=C(C=CC1)C(C(C(=O)OCC)CC=1C=CC2=C(C(CO2)(C)C)C1)=O | C22H23ClO4
solvent | ether | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | zinc chloride | 72.6 mmol, 140 ml, 9.90 g | [Cl-].[Zn+2].[Cl-]
product | ethyl (2RS,3RS)-3-(3-chlorophenyl)-2-[(3,3-dimethyl-2,3-dihydro-1-benzofuran-5-yl)methyl]-3-hydroxypropionate | 12.07 g, 86% | ClC=1C=C(C=CC1)C(C(C(=O)OCC)CC=1C=CC2=C(C(CO2)(C)C)C1)O | C22H25ClO4
